US07235559B1
Dimethylformamide (0.2 ml) was added dropwise to a solution of 6-methoxy-7-benzyloxy-3,4-dihydroquinazolin-4-one (5.00 g, 17.9 mmol) in thionyl chloride (100 ml) and the reaction was heated at reflux for 1 hour. The reaction was cooled, excess thionyl chloride was removed in vacuo and the residue was azeotroped with toluene (3×50 ml) to remove the last of the thionyl chloride. The residue was taken up in dichloromethane (550 ml), the solution was washed with saturated aqueous sodium hydrogen carbonate solution (100 ml) and water (100 ml) and the organic phase was dried over magnesium sulphate. Solvent evaporation in vacuo yielded 4-chloro-6,7-dimethoxyquinazoline (4.80 g, 90% yield) as a pale brown solid:

reactant | Dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
reactant | 6-methoxy-7-benzyloxy-3,4-dihydroquinazolin-4-one | 17.9 mmol, 5.00 g | COC=1C=C2C(NC=NC2=CC1OCC1=CC=CC=C1)=O | C16H14N2O3
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chloro-6,7-dimethoxyquinazoline | 4.80 g, 90% yield | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
